US07576091B2
2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-ylamine
A mixture of 2-methyl-6-morpholin-4-ylmethylene-5,6-dihydro-4H-benzothiazol-7-one (2.24 g, 8.47 mol), guanidine hydrochloride salt (0.89 g, 9.32 mol) and NaOH (0.37 g, 9.32 mol) in EtOH (150 mL) was heated under reflux for 4 h. The reaction mixture was concentrated under vacuum. Flash column chromatography (50% EtOAc:hexane) afforded the title product as a yellow solid (1.66 g, 90%): mp 241-243° C. Anal. RP-HPLC: tR 8.7 min (0-60% MeCN, purity 100%). 1H-NMR (CDCl3): δ 8.06 (s, 1H, Py-H), 5.01 (brs, 2H, NH2), 2.99 (m, 4H, CH2—CH2), 2.76 (s, 3H, CH3). MS (ESI+): m/z 219.02 (M+H)+.

reactant | 2-methyl-6-morpholin-4-ylmethylene-5,6-dihydro-4H-benzothiazol-7-one | 8.47 mol, 2.24 g | CC=1SC2=C(N1)CCC(C2=O)=CN2CCOCC2 | C13H16N2O2S
reactant | guanidine hydrochloride salt | 9.32 mol, 0.89 g | Cl.NC(=N)N
reactant | NaOH | 9.32 mol, 0.37 g | [OH-].[Na+]
solvent | EtOH | 150 mL | CCO | C2H6O
product | 2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-ylamine | 1.66 g, 90% | CC=1SC2=C(CCC=3C=NC(=NC23)N)N1 | C10H10N4S
